US06232316B1
(2S)-(4E)-5-(3-Pyridyl)-4-penten-2-ol p-Toluenesufonate
Under a nitrogen atmosphere, p-toluenesufonyl chloride (7.01 g, 36.77 mmol) was added to a stirring solution of (2S)-(4E)-5-(3-pyridyl)-4-penten-2-ol (3.00 g, 18.38 mmol) in dry triethylamine (20 mL) at 0° C. After stirring and warming to ambient temperature over 18 h, the mixture was stirred with cold, saturated NaHCO3 solution (50 mL) for 1 hour and extracted with chloroform (3×50 mL). The combined chloroform extracts were dried (K2CO3), filtered, and concentrated by rotary evaporation to afford a thick, dark-brown mass (˜7 g). The crude product was purified by column chromatography on silica gel, eluting with chloroform-acetone (98:2, v/v) to afford 4.00 g (68.6%) of a light-brown syrup.

reactant | p-toluenesufonyl chloride | 36.77 mmol, 7.01 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | (2S)-(4E)-5-(3-pyridyl)-4-penten-2-ol | 18.38 mmol, 3.00 g | N1=CC(=CC=C1)/C=C/C[C@H](C)O | C10H13NO
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | triethylamine | 20 mL | C(C)N(CC)CC | C6H15N
product | (2S)-(4E)-5-(3-Pyridyl)-4-penten-2-ol p-Toluenesufonate | 4.00 g, 68.6% | C1(=CC=C(C=C1)S(=O)(=O)O[C@@H](C)C\C=C\C=1C=NC=CC1)C | C17H19NO3S
